US05143923
N-[4-(1-(1,2-Benzisothiazol-3-yl)-4-piperazinyl)butyl]-1,2-benzisothiazole-3-carboxamide hydrochloride
A mixture of 1,2-benzisothiazole-3-carboxylic acid chloride (2.6 g), 1-(1,2-benzisothiazol-3-yl)-4-(4-aminobutyl)piperazine (3.45 g), and triethylamine (5 ml), in sieve-dried toluene (100 ml) was heated to 80° C., with stirring, overnight. After 24 hr, the reaction mixture was cooled to room temperature and added to water. The organic phase was separated and the aqueous phase was extracted with ethyl acetate. The ethyl acetate extracts and the toluene phase were combined and dried anhydrous over magnesium sulfate. The organic phase was filtered and the filtrate concentrated in vacuo. The residue was chromatographed on silica using ethyl acetate. The appropriate fractions were collected and concentrated in vacuo. The residue was taken up in ether and hydrogen chloride in ether was added. The precipitate was recrystallized from dichloromethane/ether and dried (0.1 mm mercury, refluxing isopropanol alcohol temperature) to provide 1.60 g (27.1%) of product, mp 203°-205° C.

reactant | 1,2-benzisothiazole-3-carboxylic acid chloride | 2.6 g | S1N=C(C2=C1C=CC=C2)C(=O)Cl | C8H4ClNOS
reactant | 1-(1,2-benzisothiazol-3-yl)-4-(4-aminobutyl)piperazine | 3.45 g | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCN | C15H22N4S
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-(1-(1,2-Benzisothiazol-3-yl)-4-piperazinyl)butyl]-1,2-benzisothiazole-3-carboxamide hydrochloride | 1.60 g, 27.1% | Cl.S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCCCNC(=O)C2=NSC1=C2C=CC=C1 | InChI=1S/C23H25N5OS2.ClH/c29-23(21-17-7-1-3-9-19(17)30-25-21)24-11-5-6-12-27-13-15-28(16-14-27)22-18-8-2-4-10-20(18)31-26-22;/h1-4,7-10H,5-6,11-16H2,(H,24,29);1H
